US06884801B1
Anthranilic acid N′-acetylhydrazide (prepared from acetic hydrazide and isatoic anhydride using the method described in Example 44) and CMI were reacted using conditions described in the general procedure for CMI coupling to give N′-acetyl-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]benzohydrazide.

reactant | Anthranilic acid N′-acetylhydrazide | C(C)(=O)NNC(C=1C(N)=CC=CC1)=O | C9H11N3O2
reactant | acetic hydrazide | C(C)(=O)NN | C2H6N2O
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
product | N′-acetyl-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]benzohydrazide | C(C)(=O)NNC(C1=C(C=CC=C1)NCC=1NCCN1)=O | C13H17N5O2
